US03997573
363 g (1.37 moles) of 1-acetamino-anthraquinone are stirred into 3.5 kg of ethanol, 150 ml of concentrated sodium hydroxide solution (d = 1.48) are added and the mixture is then heated to the reflux temperature (80° C) for three hours. After cooling to 15° C, the red suspension is suction filtered. The residue is washed on the suction filter with hot water until the filtrate has a neutral reaction. After drying, 291 g of 1-amino-anthraquinone are obtained (yield: 95.2%). Degree of purity: 98 to 99%.

reactant | 1-acetamino-anthraquinone | 1.37 moles, 363 g | N(C(=O)C)C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C16H11NO3
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | ethanol | 3.5 kg | C(C)O | C2H6O
product | 1-amino-anthraquinone | 291 g, yield: 95.2% | NC1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H9NO2
